US08283475B2
N-[2-(6-Chloro-4-formyl-2H-benzotriazol-2-yl)-1-cyano-1-methylethyl]-4-trifluoromethoxybenzamide (compound No 1.079)
A solution of N-[2-(6-Chloro-4-vinyl-2H-benzotriazol-2-yl)-1-cyano-1-methylethyl]-4-trifluoromethoxybenzamide (0.29 g) in 35 mL of a 3 to 1 mixture of DCM and methanol was treated with ozone gas for 15 minutes. After stirring one hour at −78° C., the mixture was purged 10 minutes with oxygen and then quenched with dimethyl sulfide followed by a 10% solution of sodium thiosulfate, then diluted with DCM (100 mL). The mixture was separated, and the organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure to give a residue that was purified by chromatography (SiO2, heptane/EA) to afford the title compound as a white solid (0.23 g, 79%). Rf=0.6 (1:1 EA/heptane). MS (ES): M/Z [M+H]=452. 1H NMR: (400 MHz, CHLOROFORM-d): 1.58 (s, 3H), 5.24 (d, J=13.8 Hz, 1H), 5.47 (d, J=13.8 Hz, 1H), 7.37 (d, J=8.1 Hz, 2H), 7.94 (br. s, 1H), 8.00 (d, J=1.8 Hz, 1H), 8.05 (m, 2H), 8.22 (d, J=1.9 Hz, 1H) and 10.34 (s, 1H). 19F NMR (376 MHz, CHLOROFORM-d): −58.1 (s, 3F).

reactant | N-[2-(6-Chloro-4-vinyl-2H-benzotriazol-2-yl)-1-cyano-1-methylethyl]-4-trifluoromethoxybenzamide | 0.29 g | ClC=1C=C(C=2C(=NN(N2)CC(C)(C#N)NC(C2=CC=C(C=C2)OC(F)(F)F)=O)C1)C=C | C20H15ClF3N5O2
reactant | DCM | C(Cl)Cl | CH2Cl2
reactant | ozone | O=[O+][O-] | O3
solvent | methanol | CO | CH4O
product | N-[2-(6-Chloro-4-formyl-2H-benzotriazol-2-yl)-1-cyano-1-methylethyl]-4-trifluoromethoxybenzamide | 0.23 g, 79% | ClC=1C=C(C=2C(=NN(N2)CC(C)(C#N)NC(C2=CC=C(C=C2)OC(F)(F)F)=O)C1)C=O | C19H13ClF3N5O3
